US08076285B2
2-(Trimethylsilyl)ethyl N2-[(benzyloxy)carbonyl]-3-[(tert-butoxycarbonyl)amino]-L-alaninate
N-[(Benzyloxy)carbonyl]-3-[(tert-butoxycarbonyl)amino]-L-alanine (1000.0 mg, 2.96 mmol) [Rane, F. Dinanath et al.; Tetrahedron Lett.; EN; 34; 20; 1993; 3201-3204] is dissolved in dichloromethane (20 ml), and trimethylsilylethanol (4.2 ml, 3.5 g, 29.55 mmol, 10 eq.), DCC (1.22 g, 5.91 mmol, 2 eq.) and DMAP (361.1 mg, 2.96 mmol, 1 eq.) are successively added to the solution at −20° C. The reaction is warmed to RT and stirred at this temperature overnight and brought to complete conversion. For the workup, the mixture is concentrated, and the residue is taken up in diethyl ether and subsequently extracted twice with water and once with a sat. aq. sodium chloride solution. The etheric phase is dried over sodium sulfate, the desiccant is removed by filtration through silica gel, and most of the solvent is removed from the filtrate on a rotary evaporator. If a precipitate separates out during the concentration, this can be removed again where appropriate through silica gel. The residue obtained is then fine purified by chromatography (method 31) and 1.1 g (86.4% of theory) of the title compound are obtained.

reactant | N-[(Benzyloxy)carbonyl]-3-[(tert-butoxycarbonyl)amino]-L-alanine | 2.96 mmol, 1000.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)O | C16H22N2O6
reactant | trimethylsilylethanol | 29.55 mmol, 4.2 ml, 3.5 g, 10 eq. | C[Si](C)(C)C(C)O | C5H14OSi
reactant | DCC | 5.91 mmol, 1.22 g, 2 eq. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | DMAP | 2.96 mmol, 361.1 mg, 1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(Trimethylsilyl)ethyl N2-[(benzyloxy)carbonyl]-3-[(tert-butoxycarbonyl)amino]-L-alaninate | C(C1=CC=CC=C1)OC(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)OCC[Si](C)(C)C | C21H34N2O6Si
